US07517873B2
A mixture of 0.0406 g (0.00013 mole) of 2-chloro-9-cyclopentyl-5,7,7-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-38), 0.0191 g (0.000138 mole) of 4-aminobenzoic acid, 0.7 mL of ethanol, 2.8 mL of water and 3 drops of hydrochloric acid was heated at reflux for 17 hours. The mixture was cooled and the white precipitate which formed was collected by filtration to give 0.0315 g of 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-50a) as a white solid.

reactant | 2-chloro-9-cyclopentyl-5,7,7-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00013 mole, 0.0406 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C15H21ClN4O
reactant | 4-aminobenzoic acid | 0.000138 mole, 0.0191 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethanol | 0.7 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | water | 2.8 mL | O | H2O
product | 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.0315 g | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C22H27N5O3
